US08110581B2
Step 1. 1-tert-butyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate
To a solution of 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate (2.6 g, 10.0 mmol) in THF (30 mL) was slowly added LDA (6.7 mL, 12.0 mmol, 1.8 M solution in heptane/tetrahydrofuran/ethylbenzene) at −78° C. and the mixture was slowly warmed to −55° C. over 1 h. To this mixture, 1-bromo-3-methyl-2-butene (1.55 g, 10.5 mmol) was slowly added and the reaction was warmed to room temperature and stirred for 4 h. The mixture was quenched with saturated NH4Cl and extracted with diethyl ether, and the combined extracts were washed with brine, dried and concentrated. The product (2.75 g, 85%) was purified by CombiFlash eluted with hexane/ethyl acetate.

reactant | 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate | 10.0 mmol, 2.6 g | N1(CC(CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | LDA | 12.0 mmol, 1.8 M, 6.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-bromo-3-methyl-2-butene | 10.5 mmol, 1.55 g | BrCC=C(C)C | C5H9Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate | CC(=CCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC)C | C18H31NO4
